US08541438B2
4-Chloro-3-nitroquinoline (0.700 g, 3.37 mmol) was added in two portions to a solution of 3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propan-1-amine (0.960 g, 3.54 mmol) and triethylamine (0.610 mL, 4.38 mmol) in dichloromethane (15 mL) at 0° C. After 30 min, the reaction was allowed to warm to rt and stir overnight. The mixture was diluted with dichloromethane (40 mL) and was washed with saturated aqueous sodium bicarbonate (30 mL). The aqueous layer was extracted with dichloromethane (20 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated to afford a yellow solid. The crude product was purified using HPFC (silica gel, gradient elution with 0-2% ethyl acetate/hexanes) to yield N-[3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl]-3-nitroquinolin-4-amine as a bright yellow solid (1.40 g, 93%).

reactant | 4-Chloro-3-nitroquinoline | 3.37 mmol, 0.700 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | 3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propan-1-amine | 3.54 mmol, 0.960 g | [Si](C)(C)(C(C)(C)C)OC1(CCCCC1)CCCN | C15H33NOSi
reactant | triethylamine | 4.38 mmol, 0.610 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | N-[3-(1-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)propyl]-3-nitroquinolin-4-amine | 1.40 g, 93% | [Si](C)(C)(C(C)(C)C)OC1(CCCCC1)CCCNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C24H37N3O3Si
